US07423035B2
5-hydroxy-8-(1-hydroxy-2-{1-[2-(4-methoxy-phenyl)-ethyl]-cyclopropylamino}-ethyl)-4H-benzo[1,4]oxazin-3-one
Prepared according to general method 3 from 329 mg (1 mmol) 5-benzyloxy-8-(2,2-dihydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one and 191 mg (1 mmol) 1-[2-(4-methoxy-phenyl)-ethyl]-cyclopropylamine. Yield: 55 mg (11%, trifluoroacetate); mass spectroscopy: [M+H]+=399.

reactant | 5-benzyloxy-8-(2,2-dihydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one | 1 mmol, 329 mg | C(C1=CC=CC=C1)OC1=CC=C(C2=C1NC(CO2)=O)C(C(O)O)=O | C17H15NO6
reactant | 1-[2-(4-methoxy-phenyl)-ethyl]-cyclopropylamine | 1 mmol, 191 mg | COC1=CC=C(C=C1)CCC1(CC1)N | C12H17NO
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 5-hydroxy-8-(1-hydroxy-2-{1-[2-(4-methoxy-phenyl)-ethyl]-cyclopropylamino}-ethyl)-4H-benzo[1,4]oxazin-3-one | OC1=CC=C(C2=C1NC(CO2)=O)C(CNC2(CC2)CCC2=CC=C(C=C2)OC)O | C22H26N2O5
